data/mechanism_extracts/JOC/10.1021_acs.joc.5c01984_sup_1.json
{"doi": "10.1021_acs.joc.5c01984_sup_1", "journal": "JOC", "is_review": false, "rxn_class_summary": "Electrochemical three-component thiol-ene/perfluoroalkylation of styrenes with arylthiols and perfluoroalkyl iodides to give β-thio-perfluoroalkylated products via a radical pathway", "mechanism_family": ["radical_cathodic", "radical_polar_crossover"], "electrochemical_role": "Cathodic reduction generates the perfluoroalkyl radical (nC4F9•) from nC4F9I; the perfluoroalkyl radical adds to the styrene to form a benzylic C-radical that is trapped by the arylthiol/thiyl species", "key_intermediates": [{"name": "perfluorobutyl radical (nC4F9•)", "smiles": "[CH2]C(F)(F)C(F)(F)C(F)(F)F", "role": "reactive"}, {"name": "benzylic C-radical from nC4F9• addition to 4-vinylbiphenyl", "smiles": null, "role": "reactive"}, {"name": "TEMPO-trapped adduct B (benzylic radical + TEMPO, [M+H]+ = 556.4)", "smiles": null, "role": "transient"}, {"name": "aryl thiyl radical (4-MeO-C6H4-S•)", "smiles": "[S]c1ccc(OC)cc1", "role": "reactive"}], "electron_flow": "Cathode reduces nC4F9I to give nC4F9• which adds to the styrene producing a benzylic radical; this carbon radical is captured by the arylthiol (or its thiyl radical) to deliver the ArS group, completing the three-component coupling.", "rate_determining_step": null, "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Product 4aa only trace; TEMPO-benzylic adduct B detected by LC-MS ([M+H]+ 556.4, calc 556.57)"}, {"name": "BHT", "smiles": "Cc1cc(C(C)(C)C)c(O)c(C(C)(C)C)c1", "purpose": "radical_trap", "observation": "4aa still formed in 70% yield (incomplete suppression)"}, {"name": "1,1-diphenylethylene (DPE)", "smiles": "C(=C)(c1ccccc1)c1ccccc1", "purpose": "radical_trap", "observation": "4aa obtained in 42% yield (partial suppression)"}, {"name": "diaryl disulfide 2a' (in place of thiol 2a)", "smiles": "COc1ccc(SSc2ccc(OC)cc2)cc1", "purpose": "intermediate_trap", "observation": "Only trace 4aa formed, indicating disulfide is not a competent intermediate under the standard conditions"}], "evidence_types_used": ["intermediate_trap_TEMPO", "intermediate_trap_BHT", "intermediate_trap_other", "isolation_of_intermediate"], "evidence_strength": "medium", "notes": "Incomplete suppression by BHT (70%) and DPE (42%) suggests the benzylic radical is short-lived/efficiently trapped before scavenger interception; only TEMPO fully suppresses and gives a detectable adduct. Control with the disulfide 2a' giving only trace product argues against a disulfide-derived thiyl radical pathway under the standard electrochemical conditions."}
